US06492385B2
Step 40b: 5-Phenoxy-thiophene-2-carboxylic Acid.
5-Phenoxy-thiophene-2-carboxaldehyde (325 mg, 1.6 mmol) is dissolved in a mixture of THF (10 mL), t-BuOH (5 mL) and water (5 mL). NaH2PO4 (650 mg, 4.8 mmol) is added followed by NaClO2 (432 mg, 4.8 mmol). The resulting mixture is stirred for 24 hours at room temperature. Aqueous NaOH (2M, 5 mL) is added, and the organic solvents are removed in vacuo. The resulting aqueous suspension is poured into water (50 mL) and washed with ether (3×50 mL). The aqueous layer is acidified to pH<2 with 25% H2SO4 then washed with CH2Cl2 (3×50 mL). The combined organic washes are dried over Na2SO4, filtered and concentrated in vacuo. The crude product is dissolved in hot aqueous acetone and filtered. The solvents are gradually removed until a precipitate forms. The solid is collected by filtration and dried in vacuo to yield the desired product (192 mg, 55%). MS for C11H7O3S (ESI) (M−H)+ m/z 219.

reactant | 5-Phenoxy-thiophene-2-carboxaldehyde | 1.6 mmol, 325 mg | O(C1=CC=CC=C1)C1=CC=C(S1)C=O | C11H8O2S
reactant | NaClO2 | 4.8 mmol, 432 mg | [O-]Cl=O.[Na+]
reactant | NaOH | 2M, 5 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
solvent | water | 5 mL | O | H2O
product | 5-Phenoxy-thiophene-2-carboxylic Acid | 192 mg, 55% | O(C1=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O3S
